US07705025B2
5-{4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-3-carbonitrile
The title compound is prepared in a manner substantially analogous to General Procedure A using [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone (351 mg, 0.88 mmol) and 5-Iodo-thiophene-3-carbonitrile (CAS 18800-02-7) (165 mg, 0.88 mmol) to give 100 mg (30% yield). MS (ES+) 380.2 (M+H)+

reactant | [2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | 0.88 mmol, 351 mg | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H35BN2O3
reactant | 5-Iodo-thiophene-3-carbonitrile | 0.88 mmol, 165 mg | IC1=CC(=CS1)C#N | C5H2INS
product | 5-{4-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidine-1-carbonyl]-phenyl}-thiophene-3-carbonitrile | 30% yield | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC(=CS1)C#N | C22H25N3OS
